US05563162
A solution of ethyl 4-(phenoxycarbonylamino)cinnamate (500 mg), 3-aminopyridine (154 mg) and triethylamine (325 mg) in N,N-dimethylformamide (5 ml) was stirred for 2 hours at 80° C. Water was added thereto, and the resulting precipitate was collected by filtration to give ethyl 4-[3-(3-pyridyl)ureido]cinnamate (307 mg) as a colorless powder.

reactant | ethyl 4-(phenoxycarbonylamino)cinnamate | 500 mg | O(C1=CC=CC=C1)C(=O)NC1=CC=C(C=CC(=O)OCC)C=C1 | C18H17NO4
reactant | 3-aminopyridine | 154 mg | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 325 mg | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 4-[3-(3-pyridyl)ureido]cinnamate | 307 mg | N1=CC(=CC=C1)NC(NC1=CC=C(C=CC(=O)OCC)C=C1)=O | C17H17N3O3
